US07115666B2
N-tert-butyl-C-[4-phenylbutyl]nitrone (Compound 19)
To a mixture of 5-[phenyl-pentanal (1.62 g, 10 mmol, 1.0 equiv) and methanol (50 ml) was added N-tert-butylhydroxylamine (0.93 g, 10.43 mmol, 1.25 equiv) followed by 10 drops of conc. HCl. The mixture was stirred at rt for 18 h. The mixture was concentrated under vacuum to yield a light colored oil. The residue oil was purified by column chromatography (hexane:EtOAc 1:1) followed by EtOAc to give the title compound as a lightly colored oil: Yield: 39%: 1H NMR (CDCl3) δ 7.20 (m, 5H), 6.94 (d, 1H), 2.50 (m, 4H), 1.60 (m, 4H), 1.46 (s, 9H).

reactant | phenyl-pentanal | 10 mmol, 1.62 g, 1.0 equiv | C1(=CC=CC=C1)C(C=O)CCC | C11H14O
reactant | N-tert-butylhydroxylamine | 10.43 mmol, 0.93 g, 1.25 equiv | C(C)(C)(C)NO | C4H11NO
reactant | methanol | 50 ml | CO | CH4O
catalyst | HCl | 10 drops | Cl | ClH
product | N-tert-butyl-C-[4-phenylbutyl]nitrone | Yield: 39% | C(C)(C)(C)[N+](=CCCCCC1=CC=CC=C1)[O-] | C15H23NO
